US05976759
Using 12.0 g of poly(p-hydroxystyrene) obtained according to (2) of Preparation Example 18 and 4.5 g of isopropyl chlorocarbonate, the procedure of (2) of Preparation Example 6 was carried out to obtain 11.7 g of poly(p-isopropoxycarbonyloxystyrene/p-hydroxystyrene) as white powdery crystals. P-isopropoxycarbonyloxystyrene unit/p-hydroxystyrene unit molar ratio in the polymer≈3:7 (1H NMR). Mw≈9,000; Mw/Mn=1.64 (GPC with polystyrene calibration).

reactant | poly(p-hydroxystyrene) | 12.0 g | C#CC1=CC=C(C=C1)O | C8H6O
reactant | isopropyl chlorocarbonate | 4.5 g | C(OC(C)C)(=O)Cl | C4H7ClO2
product | p-isopropoxycarbonyloxystyrene p-hydroxystyrene | C(C)(C)OC(=O)OC1=CC=C(C=C)C=C1.OC1=CC=C(C=C)C=C1 | InChI=1S/C12H14O3.C8H8O/c1-4-10-5-7-11(8-6-10)15-12(13)14-9(2)3;1-2-7-3-5-8(9)6-4-7/h4-9H,1H2,2-3H3;2-6,9H,1H2
